US06420417B1
2-Ethyl-2-(mesyloxymethyl)hexanal (1)
To a cold (10° C.) solution of 12.6 g (0.11 mole) of methanesulfonyl chloride and 10.3 g (0.13 mole) of triethylemine was added dropwise 15.8 g of 2-ethyl-2-(hydroxymethyl)hexanal, prepared according to the procedure described in Chem. Ber. 98, 728-734 (1965), while maintaining the reaction temperature below 30° C. The reaction mixture was stirred at room temperature for 18 h, quenched with dilute HCl and extracted with methlyene chloride. The methylene chloride extract was dried over MgSO4 and concentrated in vacuo to give 24.4 g of brown oil.

reactant | methanesulfonyl chloride | 0.11 mole, 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-ethyl-2-(hydroxymethyl)hexanal | 15.8 g | C(C)C(C=O)(CCCC)CO | C9H18O2
product | 2-Ethyl-2-(mesyloxymethyl)hexanal | 24.4 g | C(C)C(C=O)(CCCC)COS(=O)(=O)C | C10H20O4S
